US07101886B2
Starting with N-[4-(2-chloro-ethyl)-2-methyl-phenyl]-acetamide (0.194 g, 0.915 mmol) and 3-piperazin-1-yl-1H-indazole hydrochloride (0.328 g, 1.372 mmol), and following the procedure outlined in Example 501, N-(4-{2-[4-(1H-indazol-3-yl)-piperazin-1-yl]-ethyl}-2-methyl-phenyl)-acetamide was obtained as its hydrochloride salt (0.038 g, 0.101 mmol).

reactant | N-[4-(2-chloro-ethyl)-2-methyl-phenyl]-acetamide | 0.915 mmol, 0.194 g | ClCCC1=CC(=C(C=C1)NC(C)=O)C | C11H14ClNO
reactant | 3-piperazin-1-yl-1H-indazole hydrochloride | 1.372 mmol, 0.328 g | Cl.N1(CCNCC1)C1=NNC2=CC=CC=C12
product | N-(4-{2-[4-(1H-indazol-3-yl)-piperazin-1-yl]-ethyl}-2-methyl-phenyl)-acetamide | Yield=11% | N1N=C(C2=CC=CC=C12)N1CCN(CC1)CCC1=CC(=C(C=C1)NC(C)=O)C | C22H27N5O
